US05391552
1-Diphenylmethyl-4-(2-hydoxy-3-phenylmethylamino-propyl)piperazine (compound 2):
3.08 g (0.01 mol) of 1-(diphenylmethyl)-4-(2,3-epoxypropyl)piperazine and 1 g (0.01 mol) of benzylamine were refluxed with heating together with 200 ml of DMF for 5 hours in the presence of a catalytic amount of an alkali such as potassium carbonate. DMF was distilled off under reduced pressure, and a residue was extracted with ethyl acetate. After washing with water and drying, the ethyl acetate was distilled off under reduced pressure to obtain 4.8 g of a crude subject compound of a viscous liquid. The obtained compound was refined by flush chromatography and fractional thin-layer chromatography by using solvent mixtures of ethyl acetate--methanol and methylene chloride--methanol respectively to obtain 1.2 g of the subject compound as white crystals.

reactant | 1-(diphenylmethyl)-4-(2,3-epoxypropyl)piperazine | 0.01 mol, 3.08 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC1CO1)C1=CC=CC=C1 | C20H24N2O
reactant | benzylamine | 0.01 mol, 1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-Diphenylmethyl-4-(2-hydoxy-3-phenylmethylamino-propyl)piperazine | 1.2 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC(CNCC1=CC=CC=C1)O)C1=CC=CC=C1 | C27H33N3O
